US04115575
2,3-Dichloro-5-hydroxymethyl-pyridine is reacted in a known manner with thionyl chloride to give 5-chloromethyl-2,3-dichloro-pyridine and the latter is reacted with sodium cyanide, without additional purification (for example analogously to L. A. Carlson et al., Acta Pharm. Suecica 9, 411 (1972)). 5,6-Dichloro-pyridine-3-acetonitrile, thus obtained, melts at 72°-75° C. after recrystallisation from ether.

reactant | 2,3-Dichloro-5-hydroxymethyl-pyridine | ClC1=NC=C(C=C1Cl)CO | C6H5Cl2NO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 5-chloromethyl-2,3-dichloro-pyridine | ClCC=1C=C(C(=NC1)Cl)Cl | C6H4Cl3N
